US07414040B2
To a solution of 4-tert-butylcyclohexanone (3.95 g, 25.6 mmol) in CH2Cl2 (50 mL) was added tert-butyl hydrazinecarboxylate (3.83 g, 25.6 mmol). A 1:1 mixture of MgSO4/Na2SO4 was added to the reaction to make a slurry and the reaction was stirred vigorously. After 18 h, the reaction was diluted with CH3CN and filtered. The solvent was removed from the filtrate under reduced pressure to give 6.78 g of N′-(4-tert-butyl-cyclohexylidene)-hydrazinecarboxylic acid tert-butyl ester as a white foam. This material was used without further purification in the next step. 1H NMR (400 MHz, DMSO-d6) δ 9.51 (s, 1H), 2.93 (d, J=15 Hz, 1H), 2.30 (d, J=13 Hz, 1H), 2.08 (m, 1H), 1.89 (m, 2H), 1.66 (m, 1H), 1.43 (s, 9H), 1.25 (m, 1H), 1.13 (m, 1H), 1.03 (m, 1H), 0.85 (s, 9H).

reactant | 4-tert-butylcyclohexanone | 25.6 mmol, 3.95 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | tert-butyl hydrazinecarboxylate | 25.6 mmol, 3.83 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | MgSO4 Na2SO4 | [O-]S(=O)(=O)[O-].[Mg+2].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | N′-(4-tert-butyl-cyclohexylidene)-hydrazinecarboxylic acid tert-butyl ester | 6.78 g | C(C)(C)(C)OC(=O)NN=C1CCC(CC1)C(C)(C)C | C15H28N2O2
